US04414226
In pyridine (10 ml) was dissolved 8-hydroxy-1-methoxy-3-methyl-7,12-dihydro-5H-benzo[d]naphtho[2,3-b]pyran-5,7,12-trione (150 mg) as obtained in Example 15, followed by addition of acetic anhydride (5 ml). The mixture was allowed to stand overnight. The solvent was then distilled off under reduced pressure and the residue was extracted with chloroform. The solvent layer was washed with dilute HCl and water, and dried over sodium sulfate. The solvent was distilled off and the residue was crystallized from diethyl ether to give crystals (45 mg) of 8-acetoxy-1-methoxy-3-methyl-7,12-dihydro-5H-benzo[d]naphtho[2,3-b]pyran-5,7,12-trione.

reactant | 8-hydroxy-1-methoxy-3-methyl-7,12-dihydro-5H-benzo[d]naphtho[2,3-b]pyran-5,7,12-trione | 150 mg | OC1=CC=CC=2C(C3=C(OC(C4=C3C(=CC(=C4)C)OC)=O)C(C12)=O)=O | C19H12O6
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 8-acetoxy-1-methoxy-3-methyl-7,12-dihydro-5H-benzo[d]naphtho[2,3-b]pyran-5,7,12-trione | 45 mg | C(C)(=O)OC1=CC=CC=2C(C3=C(OC(C4=C3C(=CC(=C4)C)OC)=O)C(C12)=O)=O | C21H14O7
